US04977272
0.35 mol diphosgene is added dropwise over 1 hour to a mixture of 0.28 mol of glycine tert-butyl ester and 0.4 g activated charcoal in 400 mL dioxane under N2. The reaction mixture is then heated and stirred at reflux for 21/2 hours. The reaction mixture is then cooled, filtered, and concentrated to dryness by rotary evaporator, keeping exposure to moisture to a minimum. The crude product is redissolved in 100 mL THF, and the pH of the solution is adjusted to 5.5-6.0 by addition of pyridine. The product mixture is again filtered, and the product is purified by fractional distillation to give glycine tert-butyl ester isocyanate.

reactant | diphosgene | 0.35 mol | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | glycine tert-butyl ester | 0.28 mol | C(C)(C)(C)OC(CN)=O | C6H13NO2
reactant | charcoal | C | CH4
solvent | dioxane | 400 mL | O1CCOCC1 | C4H8O2
product | glycine tert-butyl ester isocyanate | [N-]=C=O.C(C)(C)(C)OC(CN)=O | InChI=1S/C6H13NO2.CNO/c1-6(2,3)9-5(8)4-7;2-1-3/h4,7H2,1-3H3;/q;-1
